US08703946B2
Iodomethane (0.005 mL, 0.08 mmol) was added to a stirred suspension of (4-fluoro-phenyl)-(3-hydroxy-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone (19 mg, 0.052 mmol) and Cs2CO3 (0.034 g, 0.1 mmol) in DMF (0.5 mL). The mixture was stirred at room temperature for 45 minutes and the solvent was evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 100/0). The desired fractions were collected and the solvents evaporated in vacuo to yield (4-fluoro-phenyl)-(3-methoxy-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone (5 mg, 25% yield) as a colourless oil. C21H20FN3O3 1H NMR (400 MHz, CDCl3) δ ppm 3.78 (br. s., 3H), 4.01 (br. s., 2H), 4.20 (br. s., 2H), 4.80 (br. s., 2H), 5.02 (s, 2H), 6.93-7.00 (m, 1H), 7.03 (d, J=7.9 Hz, 2H), 7.16 (t, J=8.7 Hz, 2H), 7.27-7.34 (m, 2H), 7.46-7.53 (m, 2H).

reactant | Iodomethane | 0.08 mmol, 0.005 mL | IC | CH3I
reactant | (4-fluoro-phenyl)-(3-hydroxy-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone | 0.052 mmol, 19 mg | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2O)COC2=CC=CC=C2 | C20H18FN3O3
reactant | Cs2CO3 | 0.1 mmol, 0.034 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (4-fluoro-phenyl)-(3-methoxy-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone | 5 mg, 25% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2OC)COC2=CC=CC=C2 | C21H20FN3O3
